US08114874B2
3-Ethynylimidazo[1,2-a]pyrazine:
To a solution of 3-((Trimethylsilyl)ethynyl)imidazo [1,2-a]pyrazine (0.15 g, 0.7 mmol) in 3.5 mL of THF was added 1.05 mL (1.05 mmol) of tetrabutylammonium fluoride (1.0M in THF) at ambient temperature. The solution was stirred for 15 min, concentrated, and the crude product purified by silica gel flash chromatography (eluted with 50% EtOAc/hexanes) to provide 0.078 g of product.

reactant | 3-((Trimethylsilyl)ethynyl)imidazo [1,2-a]pyrazine | 0.7 mmol, 0.15 g | C[Si](C)(C)C#CC1=CN=C2N1C=CN=C2 | C11H13N3Si
reactant | tetrabutylammonium fluoride | 1.05 mmol, 1.0M, 1.05 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | 3-Ethynylimidazo[1,2-a]pyrazine | 0.078 g | C(#C)C1=CN=C2N1C=CN=C2 | C8H5N3
